US06242600B1
2-(4-Methoxybenzyl)succinic acid 1-methyl ester
To a solution of 2-(4-methoxybenzylidene)succinic acid 1-methyl ester (3 g) in methanol (100 ml) was added 10% palladium on carbon (0.6 g) and the solution was stirred for 16 hours under hydrogen atomosphere at room temperature. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give the titled compound (3 g) as a colorless oily substance.

reactant | 2-(4-methoxybenzylidene)succinic acid 1-methyl ester | 3 g | COC(C(CC(=O)O)=CC1=CC=C(C=C1)OC)=O | C13H14O5
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
product | 2-(4-Methoxybenzyl)succinic acid 1-methyl ester | 3 g | COC(C(CC(=O)O)CC1=CC=C(C=C1)OC)=O | C13H16O5
